US09120761B2
(d) tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)-amino)-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate (I48)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (0.110 g, 0.506 mmol) was stirred in a 1:1 t-BuOH:1,2-dichloroethane mixture (10 mL) at 0° C. A 1.0 M ZnCl2 solution in diethyl ether (0.578 mL, 0.578 mmol) was added cautiously, after addition the reaction was left stirring at 0° C. for 30 minutes. A solution of tert-butyl 4-(4-amino-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate (I47) (impure, ˜80% pure, 0.217 g, 0.482 mmol) in 1:1 t-BuOH:1,2-dichloroethane (5 mL) was added drop-wise at 0° C. followed by a solution of NEt3 (0.081 mL, 0.58 mmol) in 1:1 t-BuOH:1,2-dichloroethane (5 mL) and the reaction was allowed to warm to room temperature and was stirred for 18 hours, then at 60° C. for 24 hours. The organic solvents were evaporated in vacuo and the crude gum was purified by silica gel chromatography (40 g Si cartridge, 0-40% EtOAc In petroleum benzine 40-60° C.) to give the title compound (I48) (0.085 g, 33% yield) as a pale yellow oily solid; 1H NMR (400 MHz, d6-DMSO) δ 10.38 (s, 1H), 8.72 (s, 1H), 7.52 (d, J=8.1 Hz, 1H), 7.33-7.29 (m, 2H), 4.13-4.04 (m, 2H), 2.88-2.72 (m, 3H), 1.79 (d, J=12.1 Hz, 2H), 1.56-1.44 (m, 2H), 1.42 (s, 9H). LCMS Method C: it 7.02 min; m/z 539.0, 541.0 [M−H]−.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 0.506 mmol, 0.110 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | diethyl ether | 0.578 mmol, 0.578 mL | C(C)OCC | C4H10O
reactant | tert-butyl 4-(4-amino-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate | 0.482 mmol, 0.217 g | NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC(F)(F)F | C17H23F3N2O3
reactant | NEt3 | 0.58 mmol, 0.081 mL | CCN(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)-amino)-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate | 33% yield | ClC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC(F)(F)F | C22H23ClF6N4O3
